US05340801
Step 1: Preparation of (S)-N-tert-butoxycarbonylindoline-2-carboxylic acid
To a solution of (S)-indoline-2-carboxylic acid (1.0 g) in 1N aqueous sodium hydroxide (12 ml) is added a solution of di-tert-butyl dicarbonate (1.47 g) in tert-butanol (9 ml) and the solution is stirred at room temperature for about 2 days. The aqueous solution is adjusted to pH 2 with 1N hydrochloric acid, extracted with ethyl acetate and the ethyl acetate solution dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product which is used, without further treatment, for the next step.

reactant | (S)-indoline-2-carboxylic acid | 1.0 g | N1[C@@H](CC2=CC=CC=C12)C(=O)O | C9H9NO2
reactant | di-tert-butyl dicarbonate | 1.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
solvent | tert-butanol | 9 ml | C(C)(C)(C)O | C4H10O
product | (S)-N-tert-butoxycarbonylindoline-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC2=CC=CC=C12)C(=O)O | C14H17NO4
